US07166599B2
2-methylsulphinyl-4,6-bis-(methylamino)-5-nitro-pyrimidine
Prepared from 2-methylsulphenyl-4,6-bis(methylamino)-5-nitro-pyrimidine by reacting with m-chloroperbenzoic acid, Rf value: 0.36 (silica gel; methylene chloride/methanol=3:1)

reactant | 2-methylsulphenyl-4,6-bis(methylamino)-5-nitro-pyrimidine | CSC1=NC(=C(C(=N1)NC)[N+](=O)[O-])NC | C7H11N5O2S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 2-methylsulphinyl-4,6-bis-(methylamino)-5-nitro-pyrimidine | CS(=O)C1=NC(=C(C(=N1)NC)[N+](=O)[O-])NC | C7H11N5O3S
